US03952101
C. 5-Benzyloxy-6-methyl-2-pyridinecarboxaldehyde.
A mixture of 19.4 g. (0.0846 mol) of 3-benzyloxy-6-hydroxymethyl-2-methylpyridine (liberated from the hydrochloride salt) and 100 g. of manganese dioxide in 800 ml. of chloroform is refluxed with vigorous stirring for three hours. The mixture is filtered and the chloroform is evaporated to give a yellow oil which is chromatographed on alumina, eluting with chloroform. The recovered material is purified through its hydrochloride salt and reconverted to the base, 5-benzyloxy-6-methyl-2-pyridinecarboxaldehyde, m.p. 62°-63°C.

reactant | 3-benzyloxy-6-hydroxymethyl-2-methylpyridine | 0.0846 mol | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)CO)C | C14H15NO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Benzyloxy-6-methyl-2-pyridinecarboxaldehyde | C(C1=CC=CC=C1)OC=1C=CC(=NC1C)C=O | C14H13NO2
